US07208513B2
SYNTHESIS OF 3-[3-(CYCLOPROPYLCARBONYLAMINO)PHENYL]-1H-INDAZOLE-5-CARBOXAMIDE
Following Example 290, the reaction of 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (600 mg, 1.79 mmol) with cyclopropanecarboxylic acid (0.43 mL, 0.46 g, 5.4 mmol) and EDCI (1.06 g, 5.4 mmol) furnished 140 mg (26% yield) of the title compound. 1H NMR (DMSOd6) δ 13.4 (br s, 1H), 10.4 (s, 1H), 8.6 (s, 1H), 8.2 (s, 1H), 8.1 (br s, 1H), 7.9 (dd, 1H), 7.75 (m, 2H), 7.6 (d, 1H), 7.5 (t, 1H), 7.35 (s, 1H), 1.9–1.68 (m, 1H), 0.8 (m, 4H); ES-MS (m/z) 321 [M+H]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 1.79 mmol, 600 mg | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C19H20N4O2
reactant | cyclopropanecarboxylic acid | 5.4 mmol, 0.43 mL, 0.46 g | C1(CC1)C(=O)O | C4H6O2
reactant | EDCI | 5.4 mmol, 1.06 g | CCN=C=NCCCN(C)C | C8H17N3
product | 3-[3-(CYCLOPROPYLCARBONYLAMINO)PHENYL]-1H-INDAZOLE-5-CARBOXAMIDE | 140 mg, 26% yield | C1(CC1)C(=O)NC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)N | C18H16N4O2
